US08119676B2
tert-Butyl 3-(1-tert-butoxycarbonyl-2-phenylethyl)-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (VIIh)
1.20 g (4.47 mmol) of tert-butyl 5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate (Via) were dissolved in dry DMF (15 ml) in a heat-dried flask under a nitrogen atmosphere. 187 mg (4.69 mmol) of sodium hydride (60% suspension in mineral oil) were added while stirring at 0° C., and the reaction solution was then stirred at room temperature for 30 min. After renewed cooling in an ice bath, 1.40 g (4.91 mmol) of tert-butyl 2-bromo-3-phenylpropionate were added, and the mixture was stirred while cooling in ice for 1 h and then at room temperature for 2 h. The reaction solution was diluted with ethyl acetate, mixed with 10% aqueous ammonium chloride solution and then extracted with ethyl acetate (3×). The combined organic phases were washed with water and saturated NaCl solution, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (mobile phase gradient 15-30% ethyl acetate in heptane). Yield: 1.3 g (62%) of colorless oil

reactant | tert-butyl 5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | 4.47 mmol, 1.20 g | ClC1=CC2=C(N(C(N2)=O)C(=O)OC(C)(C)C)C=C1 | C12H13ClN2O3
reactant | sodium hydride | 4.69 mmol, 187 mg | [H-].[Na+]
reactant | tert-butyl 2-bromo-3-phenylpropionate | 4.91 mmol, 1.40 g | BrC(C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C13H17BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-(1-tert-butoxycarbonyl-2-phenylethyl)-5-chloro-2-oxo-2,3-dihydrobenzimidazole-1-carboxylate | C(C)(C)(C)OC(=O)C(CC1=CC=CC=C1)N1C(N(C2=C1C=C(C=C2)Cl)C(=O)OC(C)(C)C)=O | C25H29ClN2O5
